US06444668B1
4-(4,4Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6yl)-2-fluorophenylacetonitrile
Prepared according to procedure B from 4-bromo-2-fluorophenylacetonitrile (T. Alessi A.H.P. U.S. Pat. No.: 4,895,862) and (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid. A grey solid; mp 253-256° C. 1HNMR(DMSO-d6)□ 10.35 (s, 1H) 7.67-7.49(m,5H), 6.97(d,1H; J=8.6 Hz) 4.09 (s,2H) 1.67(s, 6H); MS [M−H]− m/z 309. Anal. Calc. For C18H15N2FO2. 0.15H20: C,69.07, H, 4.93, N, 8.95. Found C,69.27, H 5.05, N, 8.50

reactant | 4-bromo-2-fluorophenylacetonitrile | BrC1=CC(=C(C=C1)CC#N)F | C8H5BrFN
reactant | (1,4-dihydro-4,4-dimethyl-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid | CC1(OC(NC2=C1C=C(C=C2)B(O)O)=O)C | C10H12BNO4
product | 4-(4,4Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6yl)-2-fluorophenylacetonitrile | CC1(C2=C(NC(O1)=O)C=CC(=C2)C2=CC(=C(C=C2)CC#N)F)C | C18H15FN2O2
